US08648066B2
N-({6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methyl)methanesulfonamide.
Prepared by the method of example 6 using 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate and N-((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)methanesulfonamide (reagent preparation 17) in step 3. 1H NMR (400 MHz, DMSO-d6) δ 8.52 (br s, 1H), 8.05 (br s, 1H), 7.74 (d, 1H), 7.56 (dd, 1H), 7.27 (t, 1H), 7.06 (d, 1H), 4.68 (s, 2H), 4.37-4.31 (m, 2H), 4.12 (d, 2H), 3.93-3.87 (m, 2H), 2.85 (s, 3H), 2.71 (t, 2H), 2.54 (s, 3H), 2.47 (s, 2H), 1.60 (t, 2H), 0.85 (s, 6H); MS (EI) for C28H33N7O3S: 548 (MH+).

reactant | 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | CC=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C21H24N4O3
reactant | N-((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)methanesulfonamide | ClC1=NC(=NC=2CCC(CC12)(C)C)CNS(=O)(=O)C | C12H18ClN3O2S
product | N-({6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methyl)methanesulfonamide | CC1(CC=2C(=NC(=NC2CC1)CNS(=O)(=O)C)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)C)C | C28H33N7O3S
